US04284642
1,3-Bis(4'-methoxyphenyl)-2-imino-4-methyl-imidazolidine
1,2-Bis(4'-methoxyphenyl-amino)-propane, applied as starting substance, is obtained with a yield of 32.7% by reacting 4-methoxyaniline with 1,2-dibromopropane as described by McKay and Tarlton (loc. cit.). The compound melts at 82°-84° C.

reactant | 1,2-Bis(4'-methoxyphenyl-amino)-propane | COC1=CC=C(C=C1)NCC(C)NC1=CC=C(C=C1)OC | C17H22N2O2
reactant | 4-methoxyaniline | COC1=CC=C(N)C=C1 | C7H9NO
reactant | 1,2-dibromopropane | BrCC(C)Br | C3H6Br2
product | 1,3-Bis(4'-methoxyphenyl)-2-imino-4-methyl-imidazolidine | yield of 32.7% | COC1=CC=C(C=C1)N1C(N(C(C1)C)C1=CC=C(C=C1)OC)=N | C18H21N3O2
